US07323455B2
4-(5,5-Dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-2-furonitrile
Prepared from 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 4-bromofuran-2-carbonitrile generally according to the coupling procedure described in examples 82 and 1. 1H-NMR (DMSO-d6) δ 9.96 (s, 1H), 8.61 (s, 1H), 8.19 (s, 1H), 7.56 (d, J=1.9 Hz, 1H), 7.50 (dd, J=8.3, 2.0 Hz, 1H), 7.14 (d, J=8.4 Hz, 1H), 4.24 (s, 2H), 1.59 (s, 6H); MS (ES) m/z 283 (M+H)+.

reactant | 7-bromo-5,5-dimethyl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C)C)C1 | C11H12BrNO2
reactant | 4-bromofuran-2-carbonitrile | BrC=1C=C(OC1)C#N | C5H2BrNO
product | 4-(5,5-Dimethyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-2-furonitrile | CC1(OCC(NC2=C1C=C(C=C2)C=2C=C(OC2)C#N)=O)C | C16H14N2O3
